US04840883
Synthesis of 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-aminophenol
In 100 ml of ethanol was dissolved 30 g (61×10-3 mole) of 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-nitrophenol and hydrogenation was effected by using 1.5 g of Pd-C as a catalyst. The color of the nitro derivative disappeared in 2 hours, and the Pd-C was removed by filtration and ethanol was evaporated from the filtrate, followed by extraction of the residue with ethyl acetate. The ethyl acetate layer was washed with an aqueous sodium hydrogen carbonate solution and then with water, and after drying over magnesium sulfate, ethyl acetate was evaporated. 28 g of the crude product was used as such for the following reaction.

reactant | 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-nitrophenol | 61×10-3 mole, 30 g | C(C)(C)(CC)C1=C(OC(C(=O)NC2=C(C=C(C(=C2)Cl)[N+](=O)[O-])O)CC)C=CC(=C1)C(C)(C)CC | C26H35ClN2O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd-C | 1.5 g | [Pd] | Pd
product | 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-aminophenol | C(C)(C)(CC)C1=C(OC(C(=O)NC2=C(C=C(C(=C2)Cl)N)O)CC)C=CC(=C1)C(C)(C)CC | C26H37ClN2O3
